US07671208B2
Methyl 2-(2-chlorobenzyliden)acetoacetate (40.6 g; 169.9 mmol) was condensed with ethyl 3-amino-4-[2-(phthalimido)ethoxy]crotonate (51.5 g; 161.8 mmol) in 2-propanol (160 ml) under reflux for 11 hours. Methanol (103 ml) was added and mixture was cooled to 5/0° C. The solid was filtered off and dried at 40° C. Phthaloyl Amlodipine (60.7 g, purity: 98.6%; 0.86% of impurity HA) was obtained.

reactant | Methyl 2-(2-chlorobenzyliden)acetoacetate | 169.9 mmol, 40.6 g | ClC1=C(C=C(C(=O)OC)C(=O)C)C=CC=C1 | C12H11ClO3
reactant | ethyl 3-amino-4-[2-(phthalimido)ethoxy]crotonate | 161.8 mmol, 51.5 g | N\C(=C/C(=O)OCC)\COCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H18N2O5
reactant | Methanol | 103 ml | CO | CH4O
solvent | 2-propanol | 160 ml | CC(C)O | C3H8O
product | Phthaloyl Amlodipine | 60.7 g, 0.86% | CCOC(=O)C1=C(NC(=C(C1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN3C(=O)C4=CC=CC=C4C3=O | C28H27ClN2O7
